US07691863B2
a) 6-Bromo-5-hydroxy-pyrazine-2-carboxylic acid methyl ester
A mixture of 2 g (13 mmol) methyl 5-hydroxypyrazine-2-carboxylate (commercially available), 0.192 g (0.65 mmol) FeBr3, 0.7 mL (14 mmol) Br2 in 20 mL CHCl3 was refluxed for 16 h. After evaporation of all volatiles the residue was used without further purification in the consecutive step.

reactant | methyl 5-hydroxypyrazine-2-carboxylate | 13 mmol, 2 g | OC=1N=CC(=NC1)C(=O)OC | C6H6N2O3
reactant | Br2 | 14 mmol, 0.7 mL | BrBr | Br2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-5-hydroxy-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1)O)Br | C6H5BrN2O3
